US04066644
b. 6-hydroxy-2,5-dimethylpyrazolo[1,5-a]pyrido[3,2-e]-pyrimidine-7-carboxylic acid, ethyl ester
33.2 g. of [[(2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-yl)amino]methylene]propanedioic acid, ethyl ester (0.1 mol.) are heated in 100 ml. of diphenyl ether at 240° for 7 minutes. The mixture is cooled rapidly and 100 ml. of diethyl ether are added. The product, 6-hydroxy-2,5-dimethylpyrazolo[1,5-a]pyrido[3,2-e]pyrimidine-7-carboxylic acid, ethyl ester, precipitates and is filtered off, yield 20.1 g. (75%), m.p. 207°-208° (methanol).

reactant | [[(2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-yl)amino]methylene]propanedioic acid, ethyl ester | 0.1 mol | CC1=NN2C(N=C(C=C2NC=C(C(=O)OCC)C(=O)[O-])C)=C1
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-hydroxy-2,5-dimethylpyrazolo[1,5-a]pyrido[3,2-e]-pyrimidine-7-carboxylic acid, ethyl ester | OC1=C(C=NC2=C1C(=NC=1N2N=C(C1)C)C)C(=O)OCC | C14H14N4O3
